US03976678
To a mixture of 1.874 g. of pyridine (dried over barium oxide) and 60 ml. of dichloromethane (dried over calcium chloride) was added in one portion 1.237 g. of chromium trioxide (dried over phosphorus pentoxide). The mixture was stirred at room temperature for 15 mins. then 0.255 g. of 3-(6-cyanohexyl)-2-methoxymethyl-1,4-pentanediol in 5 ml. of dry dichloromethane was added in one portion. The reaction mixture was stirred at room temperature for 0.5 hr., at the end of which the supernatant was decanted into a separatory funnel. The residue was washed several times with diethyl ether (total 150 ml.). The combined organic solutions were washed three times with 20 ml. portions of 5% aqueous potassium hydroxide solution, twice with 20 ml. portions of 5% hydrochloric acid, once with 20 ml. of sodium bicarbonate and finally with 15 ml. of brine. Drying over anhydrous magnesium sulphate and removal of the solvent in vacuo gave the desired 3-(6-cyanohexyl)-2-methoxymethyl levulinaldehyde (0.195 g., 78% yield). Infra-red and proton NMR spectroscopy were in agreement with the proposed structure.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 3-(6-cyanohexyl)-2-methoxymethyl-1,4-pentanediol | C(#N)CCCCCCC(C(CO)COC)C(C)O | C14H27NO3
catalyst | chromium trioxide | [O-2].[O-2].[O-2].[Cr+6]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(6-cyanohexyl)-2-methoxymethyl levulinaldehyde | 0.195 g, 78% yield | C(#N)CCCCCCC(C(C=O)COC)C(=O)C | C14H23NO3
